US08349833B2
A mixture of 6-piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol (2.0 mmol), 2-amino-pyrimidine-5-carbaldehyde (2.6 mmol), triethylamine (4.0 mmol) and 3 drops of acetic acid in dry dichloromethane (20 mL) was stirred at room temperature for 3 hours. Then sodium triacetoxyborohydride (6.0 mmol) was added in portions and stirring was continued for 48 hours (monitored by TLC). The mixture was quenched with saturated aqueous sodium bicarbonate solution (20 mL), and the product was extracted with dichloromethane (2×10 mL). The extracts were washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo to give a crude product. Purification via column chromatography (silica gel, ethyl acetate/hexane) afforded 6-[1-(2-Amino-pyrimidin-5-ylmethyl)-piperidin-4-yl]-2-piperidin-1-yl-pyrimidin-4-ol (606 mg, 82%)

reactant | 6-piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol | 2.0 mmol | N1CCC(CC1)C1=CC(=NC(=N1)N1CCCCC1)O | C14H22N4O
reactant | 2-amino-pyrimidine-5-carbaldehyde | 2.6 mmol | NC1=NC=C(C=N1)C=O | C5H5N3O
reactant | triethylamine | 4.0 mmol | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 6.0 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-[1-(2-Amino-pyrimidin-5-ylmethyl)-piperidin-4-yl]-2-piperidin-1-yl-pyrimidin-4-ol | 606 mg, 82% | NC1=NC=C(C=N1)CN1CCC(CC1)C1=CC(=NC(=N1)N1CCCCC1)O | C19H27N7O
